US06107291
Preparation of cis-3-Benzyl-1-(4-methoxybenzenesulfonyl)-azepane-2-hydroxamic acid
cis-3-Benzyl-1-(4-methoxybenzenesulfonyl)-azepane-2-carboxylic acid (146 mg, 0.36 mmol) was dissolved in 4-mL of anhydrous methylene chloride. Dimethylformamide (10-μL) was added followed by oxalyl chloride (0.36-mL of a 2.0 M solution, 0.72 mmol). The reaction was allowed to stir at room temperature for 30 minutes. In a separate flask, 2.0-mL of tetrahydrofuran was used to suspend hydroxylamine hydrochloride (125 mg, 1.8 mmol). 0.2-mL of water was added to dissolve the mixture. The solution was cooled on ice then triethylamine (290 mg, 2.88 mmol) was added. This solution was stirred at 0° C. for 30 minutes. The acid chloride solution was then added and the reaction stirred at 0° C. for an additional 30 minutes. 20-mL of ethyl acetate was added followed by 20-mL of 0.25 M hydrochloric acid. The layers were separated and the aqueous phase was extracted with another 20-mL of ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate, filtered, and concentrated to leave a clear colorless oil which was chromatographed (silica gel, 0-1% methanol in methylene chloride) to afford the title compound ((M+H)+ 419.2, (M+NH4)+ 436.2).

reactant | cis-3-Benzyl-1-(4-methoxybenzenesulfonyl)-azepane-2-carboxylic acid | 0.36 mmol, 146 mg | C(C1=CC=CC=C1)[C@@H]1[C@@H](N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C21H25NO5S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydroxylamine hydrochloride | 1.8 mmol, 125 mg | Cl.NO
reactant | triethylamine | 2.88 mmol, 290 mg | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.25 M, 20-mL | Cl | ClH
solvent | methylene chloride | 4-mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 20-mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.2-mL | O | H2O
solvent | tetrahydrofuran | 2.0-mL | O1CCCC1 | C4H8O
solvent | Dimethylformamide | 10-μL | CN(C=O)C | C3H7NO
product | cis-3-Benzyl-1-(4-methoxybenzenesulfonyl)-azepane-2-hydroxamic acid | C(C1=CC=CC=C1)[C@@H]1[C@@H](N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)NO | C21H26N2O5S
